US07183270B2
A solution of (1R,2S,5R)-2-benzyloxycarbonylamino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylic acid tert-butyl ester (10.21 g, 27.3 mmol) in tetrahydrofuran (200 mL) was treated with water (40 mL) and then with sodium borohydride (5.16 g, 136 mmol). The mixture was stirred at room temperature for 2 h, then was treated with saturated aqueous sodium bicarbonate and stirred until the bubbling subsided. The mixture was extracted three times with ethyl acetate. The combined extracts were washed with saturated aqueous sodium chloride, dried over sodium sulfate, and concentrated under vacuum. The residue was recrystallized from ethyl acetate-hexane to provide (1R,3R,4S)-(4-benzyloxycarbonylamino-3-hydroxymethylcyclohexyl)carbamic acid tert-butyl ester as a white solid (6.8 g); additional product (2.1 g) was obtained by flash column chromatography of the residue from concentration of the mother liquors, eluting with 40%, then 50% ethyl acetate-hexane. MS found: (M+H)+=379.28.

reactant | (1R,2S,5R)-2-benzyloxycarbonylamino-7-oxo-6-aza-bicyclo[3.2.1]octane-6-carboxylic acid tert-butyl ester | 27.3 mmol, 10.21 g | C(C)(C)(C)OC(=O)N1[C@@H]2CC[C@@H]([C@H](C1=O)C2)NC(=O)OCC2=CC=CC=C2 | C20H26N2O5
reactant | water | 40 mL | O | H2O
reactant | sodium borohydride | 136 mmol, 5.16 g | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | (1R,3R,4S)-(4-benzyloxycarbonylamino-3-hydroxymethylcyclohexyl)carbamic acid tert-butyl ester | 6.8 g | C(C)(C)(C)OC(N[C@H]1C[C@H]([C@H](CC1)NC(=O)OCC1=CC=CC=C1)CO)=O | C20H30N2O5
